US05811459
4-[3-(2-Benzyloxy-5-(N-methylcarbamoyl)phenyl)propyl]benzoic acid
To a 33% solution (16 ml) of methylamine in ethanol was added 4-[3-(2-benzyloxy-5-benzyloxycarbonylphenyl)propyl]benzoic acid (1.25 g). The mixture was heated at 100° C. for 12 hours in an autoclave. The solvent was evaporated and the residue extracted with ethyl acetate (100 ml) and washed with 1N aqueous HCl (100 ml) , dried (MgSO4), filtered and evaporated. The residue was subjected to chromatography on silica gel, eluting with EtOAc. The title product was purified by trituration with diethyl ether (150 mg) mpt. 163°-166° C.

reactant | methylamine | CN | CH5N
reactant | 4-[3-(2-benzyloxy-5-benzyloxycarbonylphenyl)propyl]benzoic acid | 1.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)OCC1=CC=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C31H28O5
solvent | ethanol | C(C)O | C2H6O
product | 4-[3-(2-Benzyloxy-5-(N-methylcarbamoyl)phenyl)propyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(NC)=O)CCCC1=CC=C(C(=O)O)C=C1 | C25H25NO4
